// Generated for: spectre
// Generated on: Oct 31 15:15:25 2021
// Design library name: sram_6t
// Design cell name: sram_cell_noise_margin
// Design view name: schematic
simulator lang=spectre
global 0
parameters x=0
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dN.m"
include "/home/ecegrid/a/559mg23/vlsi_assignment/sram_6t/tsmc18dP.m"

// Library name: sram_6t
// Cell name: sram_cell_noise_margin
// View name: schematic
N4 (BLB WL Qbar GND) tsmc18dN w=360.0n l=180.0n as=1.62e-13 ad=1.62e-13 \
        ps=1.62u pd=1.62u m=1 region=sat
N3 (Q WL BL GND) tsmc18dN w=360.0n l=180.0n as=1.62e-13 ad=1.62e-13 \
        ps=1.62u pd=1.62u m=1 region=sat
N2 (Qbar Q GND GND) tsmc18dN w=450.0n l=180.0n as=2.025e-13 ad=2.025e-13 \
        ps=1.8u pd=1.8u m=1 region=sat
N1 (GND Qbar Q GND) tsmc18dN w=450.0n l=180.0n as=2.025e-13 ad=2.025e-13 \
        ps=1.8u pd=1.8u m=1 region=sat
P1 (Q Qbar VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
P0 (Qbar Q VDD VDD) tsmc18dP w=270.0n l=180.0n as=1.215e-13 ad=1.215e-13 \
        ps=1.44u pd=1.44u m=1 region=sat
C2 (WL GND) capacitor c=1p m=1
C1 (BLB GND) capacitor c=1p m=1
C0 (BL GND) capacitor c=1p m=1
V0 (Q GND) vsource type=dc dc=x
include "./_graphical_stimuli.scs"
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
dc dc param=x start=0 stop=1.8 oppoint=rawfile maxiters=150 maxsteps=10000 \
    annotate=status
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
